US05233046
To potassium t-butoxide (5.6 g, 50 mmol) in DMF (40 mL) at 75° C. was added N-(phenylmethyl)-1H-benzimidazole (2.08 g, 10 mmol) and N-(phenylmethylene)benzenamine (1.81 g, 10 mmol) dissolved in DMF (10 mL). After 5 hours the solution is poured into ice-cold water (150 mL), extracted with CHCl3 (3×50 mL) and chromatographed (PE). Diphenylacetylene was obtained in 73% yield.

reactant | potassium t-butoxide | 50 mmol, 5.6 g | CC(C)([O-])C.[K+]
reactant | N-(phenylmethyl)-1H-benzimidazole | 10 mmol, 2.08 g | C1(=CC=CC=C1)CN1C=NC2=C1C=CC=C2 | C14H12N2
reactant | N-(phenylmethylene)benzenamine | 10 mmol, 1.81 g | C1(=CC=CC=C1)C=NC1=CC=CC=C1 | C13H11N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Diphenylacetylene | 73% yield | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
